US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxybenzothiazol-2-yl)methyl]piperazine:
2-Chloromethyl-5,6,7-trimethoxybenzothiazole (365 mg) and piperazine (58 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxybenzothiazole | 365 mg | ClCC=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C11H12ClNO3S
reactant | piperazine | 58 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(5,6,7-trimethoxybenzothiazol-2-yl)methyl]piperazine | COC=1C(=C(C2=C(N=C(S2)CN2CCN(CC2)CC=2SC3=C(N2)C=C(C(=C3OC)OC)OC)C1)OC)OC | C26H32N4O6S2
